US05556860
Synthesis of 3-[1-(3-carboxybenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone
To a solution of 700 mg (1.32 mmol) of 3-[1-(3-benzyloxycarbonylbenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone in acetic acid was added 50 mg 10 % palladium-carbon, and the mixture was stirred for 5 hours in a hydrogen atmosphere at ambient temperature. The reaction mixture was filtered through cerite, and the filtrate was concentrated in vacuo. The resulting crude crystals were recrystallized from ethanol to give 450 mg (1.02 mmol) of the title compound.

reactant | 3-[1-(3-benzyloxycarbonylbenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 1.32 mmol, 700 mg | C(C1=CC=CC=C1)OC(=O)C=1C=C(CN2CCC(CC2)N2C(NC3=CC=CC=C3C2C2=CC=CC=C2)=O)C=CC1 | C34H33N3O3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 50 mg | [C].[Pd]
product | 3-[1-(3-carboxybenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 1.02 mmol, 450 mg | C(=O)(O)C=1C=C(CN2CCC(CC2)N2C(NC3=CC=CC=C3C2C2=CC=CC=C2)=O)C=CC1 | C27H27N3O3
